* VCCS (G) Transconductance Stage AC Response
* A G-type voltage-controlled current source drives a parallel
* R-C load, implementing a linear transconductor with a single
* pole set by Rl*Cl. The AC sweep captures the transconductance
* gain (gm * Rl in the midband) and the first-order roll-off.
* Devices exercised: V (AC source), R, C, G (VCCS).

.title VCCS Transconductor AC Response

* --- AC test input ---
Vin in 0 AC 1

* --- Transconductance: I_out = 0.001 * V(in), steered into 'out' ---
G1 out 0 in 0 1m

* --- Parallel RC load at the output sets the pole ---
Rload out 0 10k
Cload out 0 10n

* --- Analysis ---
.ac dec 20 10 10Meg

.MEASURE AC g_mid FIND vdb(out) AT=100

.end
